US08957078B2
To a mixture of allyl 2-amino-5-oxo-4H-pyrazolo[1,5-a]pyrimidine-3-carboxylate (1 g, 4.270 mmol) in MeCN (15 mL) was added 2,3,4,6,7,8,9,10-octahydropyrimido[1,2-a]azepine (975.1 mg, 957.9 μL, 6.405 mmol) and benzotriazol-1-yloxy(tripyrrolidin-1-yl)phosphonium (Phosphorus Hexafluoride Ion) (2.666 g, 5.124 mmol). After 5 minutes, 2-dimethylaminoethanol (3.806 g, 4.291 mL, 42.70 mmol) and cesium carbonate (5 g) were added and the mixture was stirred at room temperature for 30 minutes, followed by heating to 50° C. for 30 minutes. After cooling to room temperature the mixture was filtered and the solid was rinsed with acetonitrile. The filtrate was concentrated in vacuo to an orange oil and purified by column chromatography using 4% MeOH/DCM as eluant. Solvent evaporations in vacuo afforded allyl 2-amino-5-(2-(dimethylamino)ethoxy)pyrazolo[1,5-a]pyrimidine-3-carboxylate as a light orange solid. (450 mg, 35% yield).

reactant | allyl 2-amino-5-oxo-4H-pyrazolo[1,5-a]pyrimidine-3-carboxylate | 4.270 mmol, 1 g | NC1=NN2C(NC(C=C2)=O)=C1C(=O)OCC=C | C10H10N4O3
reactant | 2,3,4,6,7,8,9,10-octahydropyrimido[1,2-a]azepine | 6.405 mmol, 957.9 μL, 975.1 mg | N=1CCCN2C1CCCCC2 | C9H16N2
reactant | benzotriazol-1-yloxy(tripyrrolidin-1-yl)phosphonium | 5.124 mmol, 2.666 g | N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 2-dimethylaminoethanol | 42.70 mmol, 4.291 mL, 3.806 g | CN(CCO)C | C4H11NO
reactant | cesium carbonate | 5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | MeCN | 15 mL | CC#N | C2H3N
product | allyl 2-amino-5-(2-(dimethylamino)ethoxy)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 35% yield | NC1=NN2C(N=C(C=C2)OCCN(C)C)=C1C(=O)OCC=C | C14H19N5O3
